### PR TITLE
[Merged by Bors] - feat (LinearAlgebra/RootSystem/RootPositive) : Root-positive bilinear forms

### PR DESCRIPTION
**Pull request by ScottCarnahan**
This PR introduces a Prop-valued mixin class for root pairings, specifying that a bilinear form on weight space is symmetric, reflection-invariant, and gives roots a strictly positive norm.  Given a root-positive norm, one obtains sign-compatibilities between the form and the canonical pairing between roots and coroots.

Root-positive forms show up naturally in Kac-Moody Lie algebras (without the name), and the canonical polarization on a finite root pairing induces a root-positive form.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/RootSystem/RootPositive.lean [hunk 1]
```diff
@@ -0,0 +1,114 @@
...
+
+namespace RootPairing
+
+variable [LinearOrderedCommRing R] [AddCommGroup M] [Module R M] [AddCommGroup N] [Module R N]
+
+/-- A Prop-valued class for a bilinear form to be compatible with a root system. -/
+class IsRootPositive (P : RootPairing ι R M N) (B : M →ₗ[R] M →ₗ[R] R) : Prop where
+  root_pos : ∀ i : ι, 0 < B (P.root i) (P.root i)
+  symm : ∀ x y : M, B x y = B y x
+  refl_inv : ∀ (i : ι) (x y : M), B (P.reflection i x) (P.reflection i y) = B x y
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/RootPositive.lean:49]: How about making the names of these fields closer to their types:
```suggestion
  zero_lt_apply_root : ∀ i, 0 < B (P.root i) (P.root i)
  symm : ∀ x y, B x y = B y x
  apply_reflection_eq : ∀ i x y, B (P.reflection i x) (P.reflection i y) = B x y
```

File: Mathlib/LinearAlgebra/RootSystem/RootPositive.lean [hunk 2]
```diff
@@ -0,0 +1,114 @@
...
+
+section
+
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/RootPositive.lean:52]: Looks like we don't need this.
```suggestion
```

File: Mathlib/LinearAlgebra/RootSystem/RootPositive.lean [hunk 3]
```diff
@@ -0,0 +1,114 @@
...
+-- does this need a better name?
+lemma symmetric : B x y = B y x := IsRootPositive.symm P x y
+
+lemma reflection_invariant (x y : M) : B (P.reflection i x) (P.reflection i y) = B x y :=
+  IsRootPositive.refl_inv i x y
+
+end
+
+variable {P : RootPairing ι R M N} (B : M →ₗ[R] M →ₗ[R] R) [IsRootPositive P B] (i j : ι)
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/RootPositive.lean:65]:
```suggestion
variable {P}
```

File: Mathlib/LinearAlgebra/RootSystem/RootPositive.lean [hunk 4]
```diff
@@ -0,0 +1,114 @@
...
+
+variable (P : RootPairing ι R M N) (B : M →ₗ[R] M →ₗ[R] R) [IsRootPositive P B] (i j : ι) (x y : M)
+
+lemma root_positive : 0 < B (P.root i) (P.root i) := IsRootPositive.root_pos i
+
+-- does this need a better name?
+lemma symmetric : B x y = B y x := IsRootPositive.symm P x y
+
+lemma reflection_invariant (x y : M) : B (P.reflection i x) (P.reflection i y) = B x y :=
+  IsRootPositive.refl_inv i x y
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/RootPositive.lean:61]: I'm not absolutely convinced we need these (though I'm happy to be persuaded if you disagree).

File: Mathlib/LinearAlgebra/RootSystem/RootPositive.lean [hunk 5]
```diff
@@ -0,0 +1,114 @@
...
+
+end
+
+variable {P : RootPairing ι R M N} (B : M →ₗ[R] M →ₗ[R] R) [IsRootPositive P B] (i j : ι)
+
+lemma two_mul_inner_product :
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/RootPositive.lean:67]: Again I think I'd find this name more guessable as something like:
```suggestion
lemma two_mul_apply_root_root :
```

File: Mathlib/LinearAlgebra/RootSystem/RootPositive.lean [hunk 6]
```diff
@@ -0,0 +1,114 @@
...
+
+lemma pairing_pos_iff : 0 < P.pairing i j ↔ 0 < B (P.root i) (P.root j) := by
+  refine { mp := fun h => ?_, mpr := fun h => ?_ }
+  · have hB : 0 < 2 * B (P.root i) (P.root j) := by
+      rw [two_mul_inner_product]
+      exact mul_pos h (root_positive P B j)
+    exact (mul_pos_iff_of_pos_left zero_lt_two).mp hB
+  · have hB := mul_pos zero_lt_two h
+    rw [two_mul_inner_product] at hB
+    exact (mul_pos_iff_of_pos_right (root_positive P B j)).mp hB
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/RootPositive.lean:82]: I think this would make a great `simp` lemma if we flip the LHS and RHS. How about we also tweak the name and golf slightly as:
```suggestion
@[simp]
lemma zero_lt_apply_root_root_iff : 0 < B (P.root i) (P.root j) ↔ 0 < P.pairing i j := by
  refine ⟨fun h ↦ (mul_pos_iff_of_pos_right (root_positive P B j)).mp ?_,
    fun h ↦ (mul_pos_iff_of_pos_left zero_lt_two).mp ?_⟩
  · rw [← two_mul_inner_product]
    exact mul_pos zero_lt_two h
  · rw [two_mul_inner_product]
    exact mul_pos h (root_positive P B j)
```

File: Mathlib/LinearAlgebra/RootSystem/RootPositive.lean [hunk 7]
```diff
@@ -0,0 +1,114 @@
...
+
+lemma pairing_pos_of_pairing_symm_pos (h : 0 < P.pairing i j) : 0 < P.pairing j i := by
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/RootPositive.lean:84]: I think it's worth upgrading this to an iff:
```suggestion
lemma zero_lt_pairing_iff : 0 < P.pairing i j ↔ 0 < P.pairing j i := by
```

File: Mathlib/LinearAlgebra/RootSystem/RootPositive.lean [hunk 8]
```diff
@@ -0,0 +1,114 @@
...
+
+lemma coxeter_weight_non_neg : 0 ≤ P.coxeterWeight i j := by
+  dsimp [coxeterWeight]
+  by_cases h : 0 < P.pairing i j
+  · exact le_of_lt <| mul_pos h (pairing_pos_of_pairing_symm_pos B i j h)
+  · have hn : ¬ 0 < P.pairing j i := fun hc ↦ h (pairing_pos_of_pairing_symm_pos B j i hc)
+    simp_all only [not_lt, ge_iff_le]
+    exact mul_nonneg_of_nonpos_of_nonpos h hn
+
+lemma pairing_zero_iff : P.pairing i j = 0 ↔ B (P.root i) (P.root j) = 0 := by
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/RootPositive.lean:96]: Again, I think this would be a great `simp` lemma if we flip the LHS and RHS:
```suggestion
lemma apply_root_root_zero_iff : B (P.root i) (P.root j) = 0 ↔ P.pairing i j = 0 := by
```

**Review by ocfnash — COMMENTED** [review]
Thanks, just a few nitpicks.

File: Mathlib/LinearAlgebra/RootSystem/RootPositive.lean [hunk 9]
```diff
@@ -0,0 +1,100 @@
...
+
+namespace RootPairing
+
+variable [LinearOrderedCommRing R] [AddCommGroup M] [Module R M] [AddCommGroup N] [Module R N]
+
+/-- A Prop-valued class for a bilinear form to be compatible with a root system. -/
+class IsRootPositive (P : RootPairing ι R M N) (B : M →ₗ[R] M →ₗ[R] R) : Prop where
+  zero_lt_apply_root : ∀ i : ι, 0 < B (P.root i) (P.root i)
+  symm : ∀ x y : M, B x y = B y x
+  apply_reflection_eq : ∀ (i : ι) (x y : M), B (P.reflection i x) (P.reflection i y) = B x y
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/RootPositive.lean:49]: I slightly prefer
```suggestion
  zero_lt_apply_root : ∀ i, 0 < B (P.root i) (P.root i)
  symm : ∀ x y, B x y = B y x
  apply_reflection_eq : ∀ i x y, B (P.reflection i x) (P.reflection i y) = B x y
```
(but feel free to ignore)

File: Mathlib/LinearAlgebra/RootSystem/RootPositive.lean [hunk 10]
```diff
@@ -0,0 +1,100 @@
...
+      fun h ↦ (mul_pos_iff_of_pos_left zero_lt_two).mp ?_⟩
+  · rw [← two_mul_apply_root_root]
+    exact mul_pos zero_lt_two h
+  · rw [two_mul_apply_root_root]
+    exact mul_pos h (IsRootPositive.zero_lt_apply_root (P := P) (B := B) j)
+
+lemma zero_lt_pairing_iff : 0 < P.pairing i j ↔ 0 < P.pairing j i := by
+  rw [← zero_lt_apply_root_root_iff B, IsRootPositive.symm P, zero_lt_apply_root_root_iff]
+
+lemma coxeter_weight_non_neg : 0 ≤ P.coxeterWeight i j := by
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/RootPositive.lean:73]:
```suggestion
lemma coxeterWeight_non_neg : 0 ≤ P.coxeterWeight i j := by
```

File: Mathlib/LinearAlgebra/RootSystem/RootPositive.lean [hunk 11]
```diff
@@ -0,0 +1,100 @@
...
+
+@[simp]
+lemma apply_root_root_zero_iff : B (P.root i) (P.root j) = 0 ↔ P.pairing i j = 0 := by
+  refine { mp := fun hB => ?_, mpr := fun hP => ?_ }
+  · have h2 : 2 * (B (P.root i)) (P.root j) = 0 := mul_eq_zero_of_right 2 hB
+    rw [two_mul_apply_root_root] at h2
+    exact eq_zero_of_ne_zero_of_mul_right_eq_zero
+      (Ne.symm (ne_of_lt (IsRootPositive.zero_lt_apply_root j))) h2
+  · have h2 : 2 * B (P.root i) (P.root j) = 0 := by rw [two_mul_apply_root_root, hP, zero_mul]
+    simp_all only [mul_eq_zero, OfNat.ofNat_ne_zero, false_or]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/RootPositive.lean:89]:
```suggestion
  refine ⟨fun hB ↦ ?_, fun hP ↦ ?_⟩
  · have h2 : 2 * B (P.root i) (P.root j) = 0 := mul_eq_zero_of_right 2 hB
    rw [two_mul_apply_root_root] at h2
    exact eq_zero_of_ne_zero_of_mul_right_eq_zero (IsRootPositive.zero_lt_apply_root j).ne' h2
  · have h2 : 2 * B (P.root i) (P.root j) = 0 := by rw [two_mul_apply_root_root, hP, zero_mul]
    exact (mul_eq_zero.mp h2).resolve_left two_ne_zero
```

File: Mathlib/LinearAlgebra/RootSystem/RootPositive.lean [hunk 12]
```diff
@@ -0,0 +1,100 @@
...
+
+lemma pairing_zero_iff : P.pairing i j = 0 ↔ P.pairing j i = 0 := by
+  rw [← apply_root_root_zero_iff B, IsRootPositive.symm P, apply_root_root_zero_iff B]
+
+lemma orthogonal_of_coxeter_weight_zero (h : P.coxeterWeight i j = 0) : P.IsOrthogonal i j := by
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/RootPositive.lean:94]: I think this should be upgraded to an `iff` as follows:
```suggestion
@[simp]
lemma coxeterWeight_zero_iff_isOrthogonal : P.coxeterWeight i j = 0 ↔ P.IsOrthogonal i j := by
```

File: Mathlib/LinearAlgebra/RootSystem/RootPositive.lean [hunk 13]
```diff
@@ -0,0 +1,100 @@
...
+  rw [coxeterWeight, mul_eq_zero] at h
+  cases h <;> rename_i h
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/RootPositive.lean:96]:
```suggestion
  rcases h with h | h
```

File: Mathlib/LinearAlgebra/RootSystem/RootPositive.lean [hunk 14]
```diff
@@ -0,0 +1,100 @@
...
+
+noncomputable section
+
+variable {ι R M N : Type*}
+
+namespace RootPairing
+
+variable [LinearOrderedCommRing R] [AddCommGroup M] [Module R M] [AddCommGroup N] [Module R N]
+
+/-- A Prop-valued class for a bilinear form to be compatible with a root system. -/
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/RootPositive.lean:45]:
```suggestion
/-- A Prop-valued class for a bilinear form to be compatible with a root pairing. -/
```

**Review by ocfnash — COMMENTED** [review]
I've added a final round of trivial code suggestions but I also have a mathematical question.

Is `IsRootPositive` definitely the right definition even though it completely ignores the coroots? For example if `B` is non-singular, we get a bilinear form on `N` but it's not immediately clear to me that this will be a "root positive" form wrt the coroots.

File: Mathlib/LinearAlgebra/RootSystem/RootPositive.lean [hunk 15]
```diff
@@ -0,0 +1,101 @@
...
+  · have h2 : 2 * (B (P.root i)) (P.root j) = 0 := mul_eq_zero_of_right 2 hB
+    rw [two_mul_apply_root_root] at h2
+    exact eq_zero_of_ne_zero_of_mul_right_eq_zero (IsRootPositive.zero_lt_apply_root j).ne' h2
+  · have h2 : 2 * B (P.root i) (P.root j) = 0 := by rw [two_mul_apply_root_root, hP, zero_mul]
+    exact (mul_eq_zero.mp h2).resolve_left two_ne_zero
+
+lemma pairing_zero_iff : P.pairing i j = 0 ↔ P.pairing j i = 0 := by
+  rw [← apply_root_root_zero_iff B, IsRootPositive.symm P, apply_root_root_zero_iff B]
+
+@[simp]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/RootPositive.lean:93]: The linter has made me realise this cannot be a simp lemma because `B` is underdetermined (does not appear in the statement).
```suggestion
```

**Review by ocfnash — APPROVED** [review]
In the finite case my naive guess would be that the compatibility condition between bilinear forms on $M$ and $N$ would be that if we have $v$, $w$ in $N$ then:
$$\sum_{i,j}\langle v, \alpha_i\rangle \langle w, \alpha_j\rangle B_M(\alpha_i, \alpha_j) = B_M(\sum_i \langle v, \alpha_i\rangle \alpha_i, \sum_j \langle w, \alpha_j\rangle \alpha_j) = B_N(v, w),$$
where $\alpha_i$ is the ith root and $\langle v, x\rangle$ is the perfect pairing (for $x$ in $M$).

In any case, the current proposal makes sense and is useful.

bors d+

**Comment by ScottCarnahan** [comment]
Thank you for the review!
bors r+
